US07410976B2
1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]-6-(carboxy)spiro[chroman-2,4′-piperidin]-4-one
1′-[(4,8-Dimethoxyquinolin-2-yl)carbonyl]-6-(benzyloxycarbonyl)-spiro[chroman-2,4′-piperidin]-4-one (680 mg) was dissolved in 10 mL of THF and 10 mL of methanol, and vigorously stirred on 10% Pd/C under a hydrogen atmosphere for 21 hours. 1.2 mL of 1N NaOH was added to it, and filtered through Celite, and the filtrate was concentrated. 20 mL of water was added to the residue, and extracted with ethyl acetate (3×20 mL). The aqueous layer was acidified with 1N HCl, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over sodium sulfate, and concentrated to obtain the intended compound. 1H-NMR (DMSO-d6) δ: 8.30 (1H, d, J=2.2 Hz), 8.11(1H, dd, J=8.7, 2.2 Hz), 7.68 (1H, dd, J=8.3, 1.2 Hz), 7.52 (1H, dd, J=8.3, 7.7 Hz), 7.23 (1H, dd, J=1.2, 7.7 Hz), 7.21 (1H, d, J=8.7 Hz), 7.18 (1H, s), 4.35-4.28 (1H, m), 4.07 (3H, s), 3.94 (3H, s), 3.69-3.62 (1H, m), 3.50-3.22 (2H, m), 2.97 (2H, s), 2.12-2.04 (1H, m), 1.96-1.80 (3H, m). MS [M+H]+=477.

reactant | 1′-[(4,8-Dimethoxyquinolin-2-yl)carbonyl]-6-(benzyloxycarbonyl)-spiro[chroman-2,4′-piperidin]-4-one | 680 mg | COC1=CC(=NC2=C(C=CC=C12)OC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C(=O)OCC2=CC=CC=C2 | C33H30N2O7
reactant | NaOH | 1N, 1.2 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]-6-(carboxy)spiro[chroman-2,4′-piperidin]-4-one | COC1=CC(=NC2=C(C=CC=C12)OC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C(=O)O | C26H24N2O7
